US05162318
To a solution of 1,3-dihydro-1-(2-dimethylaminoethyl)-2H-benzimidazol-2-one (1.32 g) in ether (40 ml) was added 4N hydrogen chloride in dioxane dropwise with stirring. The separated crystals were collected by suction and dried to give 930 mg of 1,3-dihydro-1-(2-dimethylaminoethyl)-2H-benzimidazol-2-one hydrochloride.

reactant | 1,3-dihydro-1-(2-dimethylaminoethyl)-2H-benzimidazol-2-one | 1.32 g | CN(CCN1C(NC2=C1C=CC=C2)=O)C | C11H15N3O
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1,3-dihydro-1-(2-dimethylaminoethyl)-2H-benzimidazol-2-one hydrochloride | 930 mg | Cl.CN(CCN1C(NC2=C1C=CC=C2)=O)C | InChI=1S/C11H15N3O.ClH/c1-13(2)7-8-14-10-6-4-3-5-9(10)12-11(14)15;/h3-6H,7-8H2,1-2H3,(H,12,15);1H
